US04808750
Preparation of the R enantiomer of 2-[4-(4-chloro-2-fluorophenoxy)phenoxy]propionic acid, methyl ester
A mixture of 4-(4-chloro-2-fluorophenoxy)phenol (2.23 g; 0.01 mole), the methanesulfonate of S methyl lactate (18.22 g; 0.1 mole, minimum of 90% optical purity), and potassium carbonate (1.4 g; 0.01 mole) in DMSO (75 ml) was stirred at room temperature for 18 hours. After this period, the mixture was poured into water (500 ml) then extracted into ether (3×100 ml). The ether extracts were dried (MgSO4), and the solvent evaporated. The residue was purified by preparative HPLC using 8:2 hexane-ethylacetate as the eluent. The first peak to elute (after the solvent front) was collected and the solvent evaporated. This gave 2.3 g (17%) of a light yellow oil whose 1H and 19F NMR (CDCl3) were consistent with the assigned structure. This material possessed an optical rotation of +24.68° as measured at 25° C. The refractive index was 1.5466. Attempts to measure the optical purity using the optically active NMR shift reagent tris-[3-(trifluoromethylhydroxymethylene)-d-camphorateo]europium (III) were not successful. Based upon the optical purity of the starting lactate the optical purity is estimated to be between 75 and 95%.

reactant | 4-(4-chloro-2-fluorophenoxy)phenol | 0.01 mole, 2.23 g | ClC1=CC(=C(OC2=CC=C(C=C2)O)C=C1)F | C12H8ClFO2
reactant | methanesulfonate | CS(=O)(=O)[O-]
reactant | methyl lactate | 0.1 mole, 18.22 g | C(C(O)C)(=O)OC | C4H8O3
reactant | potassium carbonate | 0.01 mole, 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 75 ml | CS(=O)C | C2H6OS
solvent | water | 500 ml | O | H2O
product | 2-[4-(4-chloro-2-fluorophenoxy)phenoxy]propionic acid, methyl ester | ClC1=CC(=C(OC2=CC=C(OC(C(=O)OC)C)C=C2)C=C1)F | C16H14ClFO4
